US08877961B2
(b) Preparation of (tert-butoxy)-N-{4-[(fluoren-9-ylmethoxy)carbonylamino]phenyl}carboxamide
Triethylamine (7.36 mL, 52.82 mmol, 1.1 eq) is added at 0° C. to a stirred solution of N—BOC-1,4-phenylene diamine (10.00 g, 48.02 mmol, 1.0 eq) in CH3CN (240 mL), followed by 9-fluorenylmethyloxycarbonyl chloride (14.90 g, 57.62 mmol, 1.2 eq). The resulting mixture is allowed to warm to room temperature. After 4 hours stirring at room temperature, the reaction mixture is filtered to afford 20.60 g of the crude product as a white powder which is used in the next step without any further purification.

reactant | Triethylamine | 52.82 mmol, 7.36 mL, 1.1 eq | C(C)N(CC)CC | C6H15N
reactant | N—BOC-1,4-phenylene diamine | 48.02 mmol, 10.00 g, 1.0 eq | C(=O)(OC(C)(C)C)NC1=CC=C(C=C1)N | C11H16N2O2
reactant | 9-fluorenylmethyloxycarbonyl chloride | 57.62 mmol, 14.90 g, 1.2 eq | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)Cl | C15H11ClO2
solvent | CH3CN | 240 mL | CC#N | C2H3N
product | (tert-butoxy)-N-{4-[(fluoren-9-ylmethoxy)carbonylamino]phenyl}carboxamide | 20.60 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C26H26N2O4
